US07696229B2
1-methylpiperidin-4-one (1.2 g, 10.62 mmol) was added to a solution of 5-(pyrrolidin-1-yl)-1H-indole (200 mg, 1.08 mmol) in methanol (20 mL). KOH (600 mg, 10.71 mmol) was then added, and the resulting solution was stirred at reflux temperature overnight. The mixture was concentrated, quenched by the addition of water and filtered. The filter cake was washed with water and ether to afford 120 mg (37%) of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(pyrro-lidin-1-yl)-1H-indole as a yellow solid. 1H NMR (CDCl3) δ 7.85 (s, 1H), 7.09 (d, 1H), 6.98 (s, 1H), 6.69 (d, 1H), 6.12 (s, 1H), 3.32 (t, 4H), 3.25 (s, 2H), 2.75 (t, 2H), 2.66 (t, 2H), 2.47 (s, 3H), 1.71 (t, 4H).

reactant | 1-methylpiperidin-4-one | 10.62 mmol, 1.2 g | CN1CCC(CC1)=O | C6H11NO
reactant | 5-(pyrrolidin-1-yl)-1H-indole | 1.08 mmol, 200 mg | N1(CCCC1)C=1C=C2C=CNC2=CC1 | C12H14N2
reactant | KOH | 10.71 mmol, 600 mg | [OH-].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5-(pyrro-lidin-1-yl)-1H-indole | 120 mg, 37% | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)N1CCCC1 | C18H23N3
